US05332731
Preparation of pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-tetrahydrofurfurylthio-3-cephem-4-carboxylate
Sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-tetrahydrofurfurylthio-3-cephem-4-carboxylate (50 mg) was reacted with iodomethyl pivalate (36 mg) and post-treated in the same manner as in Example 4, yielding the titled compound (15 mg; 25%) as colorless crystals.

reactant | Sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-tetrahydrofurfurylthio-3-cephem-4-carboxylate | 50 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2CCCO2)C(=S)[O-])C1=O)=N/O.[Na+]
reactant | iodomethyl pivalate | 36 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
product | pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-tetrahydrofurfurylthio-3-cephem-4-carboxylate | 15 mg, 25% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2CCCO2)C(=S)OCOC(C(C)(C)C)=O)C1=O)=N/O | C23H29N5O7S3
